US07638515B2
5-{[2-Hydroxy-5-methoxy-2-(trifluoromethyl)-4,4,7-trimethyl-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-phthalazin-1-one
Analogously to Example 10, the corresponding imine is produced starting from 500 mg of 4-(2-methoxy-4-methylphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal and 287 mg of 5-amino-phthalazin-1-one. As in Example 3, 320 mg of the imine is reacted by reaction with 7.2 ml of titanium tetrachloride (1 M in dichloromethane) in 20 ml of dichloromethane, and 80 mg of the title compound is obtained.

reactant | 4-(2-methoxy-4-methylphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | 500 mg | COC1=C(C=CC(=C1)C)C(CC(C=O)(C(F)(F)F)O)(C)C | C15H19F3O3
reactant | 5-amino-phthalazin-1-one | 287 mg | NC1=C2C=NNC(C2=CC=C1)=O | C8H7N3O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 1 M, 7.2 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 5-{[2-Hydroxy-5-methoxy-2-(trifluoromethyl)-4,4,7-trimethyl-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-phthalazin-1-one | 80 mg | OC1(C(C2=CC(=CC(=C2C(C1)(C)C)OC)C)NC1=C2C=NNC(C2=CC=C1)=O)C(F)(F)F | C23H24F3N3O3
